US07125903B1
Preparation of (3-bromothiophen-2-yl)-(4-methoxyphenyl)-methanone oxime (Scheme I, Compound 7)
Stir a solution of (3-bromothiophen-2-yl)-(4-methoxyphenyl)methanone (19.65 g, 0.066 mol), hydroxylamine hydrochloride (6.89 g, 0.099 mol), and pyridine (30 mL) at 85° C. under nitrogen for five hours. Pour the reaction mixture into a mixture of water (120 mL) and toluene (180 mL), and chill to 0° C. Add concentrated hydrochloric acid (approximately 30 mL) dropwise with cooling to adjust to pH 1–2. Filter the mixture and wash the solid with toluene and water. Separate the phases and extract the acidic aqueous phase with toluene. Wash the combined toluene phases twice with water, dry (Na2SO4), filter and evaporate. Combine the residue from the toluene extracts with the previously obtained solid filter cake, and triturate the mixture with petroleum ether. Filter the mixture and dry in vacuo at 60° C. to give the title compound as a white solid (19.6 g, 95% yield).

reactant | (3-bromothiophen-2-yl)-(4-methoxyphenyl)methanone | 0.066 mol, 19.65 g | BrC1=C(SC=C1)C(=O)C1=CC=C(C=C1)OC | C12H9BrO2S
reactant | hydroxylamine hydrochloride | 0.099 mol, 6.89 g | Cl.NO
reactant | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | approximately 30 mL | Cl | ClH
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 120 mL | O | H2O
product | (3-bromothiophen-2-yl)-(4-methoxyphenyl)-methanone oxime | 19.6 g, 95% yield | BrC1=C(SC=C1)C(=NO)C1=CC=C(C=C1)OC | C12H10BrNO2S
